### PR TITLE
[Merged by Bors] - feat: sum of iterated derivatives

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
This introduces `Polynomial.sumIDeriv`, the sum of the iterated derivatives of a polynomial, to be used in particular in the proof of the Lindemann-Weierstrass theorem (see #6718).

Included are:

* `Polynomial.sumIDeriv_apply`, `Polynomial.sumIDeriv_apply_of_lt`, `Polynomial.sumIDeriv_apply_of_le`: `Polynomial.sumIDeriv` expressed as a sum
* `Polynomial.sumIDeriv_C`, `Polynomial.sumIDeriv_X`: `Polynomial.sumIDeriv` applied to simple polynomials
* `Polynomial.sumIDeriv_map`: `Polynomial.sumIDeriv` commutes with `Polynomial.map`
* `Polynomial.sumIDeriv_derivative`: `Polynomial.sumIDeriv` commutes with `Polynomial.derivative`
* `Polynomial.sumIDeriv_eq_self_add`: `sumIDeriv p = p + sumIDeriv (derivative p)`
* `Polynomial.exists_iterate_derivative_eq_factorial_smul`: the `k`'th iterated derivative of a polynomial has a common factor `k!`
* `Polynomial.aeval_iterate_derivative_of_lt`, `Polynomial.aeval_iterate_derivative_self`, `Polynomial.aeval_iterate_derivative_of_ge`: applying `Polynomial.aeval` to iterated derivatives
* `Polynomial.aeval_sumIDeriv`, `Polynomial.aeval_sumIDeriv_of_pos`: applying `Polynomial.aeval` to  `Polynomial.sumIDeriv`

---

For #6718

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Polynomial/SumIteratedDerivative.lean [hunk 1]
```diff
@@ -0,0 +1,253 @@
...
+
+namespace Polynomial
+
+variable {R : Type*}
+
+section Semiring
+
+variable [Semiring R]
+
+theorem sum_ideriv_apply_of_lt' {p : R[X]} {n : ℕ} (hn : p.natDegree < n) :
```
Comment (jcommelin) [inline Mathlib/Algebra/Polynomial/SumIteratedDerivative.lean:28]: I think that using `ideriv` as abrreviation for "iteratived derivative" is a new convention introduced in this PR, right?
But the rest of mathlib uses `iterate_derivative`. If it is only for these first two lemmas, I think we should just use the "long" version.

The def `sumIderiv` below seems fine to me.

File: Mathlib/Algebra/Polynomial/SumIteratedDerivative.lean [hunk 2]
```diff
@@ -0,0 +1,253 @@
...
+theorem iterate_derivative_large (p : R[X]) (q : ℕ) {k : ℕ} (hk : q ≤ k) :
+    ∃ gp : R[X], gp.natDegree ≤ p.natDegree - k ∧
+      ∀ r : A, aeval r (derivative^[k] p) = q ! • aeval r gp := by
+  obtain ⟨p', p'_le, hp'⟩ := iterate_derivative_eq_factorial_mul p k
+  obtain ⟨k, rfl⟩ := Nat.exists_eq_add_of_le hk
+  refine ⟨((q + k).descFactorial k : R[X]) * p', (natDegree_C_mul_le _ _).trans p'_le, fun r => ?_⟩
+  simp_rw [hp', nsmul_eq_mul, map_mul, map_natCast, ← mul_assoc, ← Nat.cast_mul,
+    Nat.add_descFactorial_eq_ascFactorial, Nat.factorial_mul_ascFactorial]
+
+theorem sumIderiv_sl (p : R[X]) (q : ℕ) :
```
Comment (jcommelin) [inline Mathlib/Algebra/Polynomial/SumIteratedDerivative.lean:164]: I don't understand the `sl` suffix of this name.

File: Mathlib/Algebra/Polynomial/SumIteratedDerivative.lean [hunk 3]
```diff
@@ -0,0 +1,253 @@
...
+  intro x _
+  rw [add_comm, Function.iterate_add_apply, iterate_derivative_eq_zero (lt_add_one _),
+    iterate_derivative_zero]
+
+theorem sum_ideriv_apply_of_le' {p : R[X]} {n : ℕ} (hn : p.natDegree ≤ n) :
+    ∑ i in range (p.natDegree + 1), derivative^[i] p = ∑ i in range (n + 1), derivative^[i] p :=
+  sum_ideriv_apply_of_lt' (Nat.lt_add_one_iff.mpr hn)
+
+/-- Sum of iterated derivatives of a polynomial, as a linear map -/
+noncomputable def sumIderiv : R[X] →ₗ[R] R[X] where
```
Comment (eric-wieser) [inline Mathlib/Algebra/Polynomial/SumIteratedDerivative.lean:43]: Should this be a weighted sum instead of a plain sum? A sentence or two explaining why this definition is useful (and/or more useful than the unweighted one) would be great in the module or function docstring.

File: Mathlib/Algebra/Polynomial/SumIteratedDerivative.lean [hunk 4]
```diff
@@ -0,0 +1,253 @@
...
+
+theorem sumIderiv_eq_self_add (p : R[X]) : sumIderiv p = p + sumIderiv (derivative p) := by
+  rw [sumIderiv_derivative, sumIderiv_apply, derivative_sum, sum_range_succ', sum_range_succ,
+    add_comm, ← add_zero (Finset.sum _ _)]
+  simp_rw [← Function.iterate_succ_apply' derivative, Nat.succ_eq_add_one,
+    Function.iterate_zero_apply, iterate_derivative_eq_zero (Nat.lt_succ_self _)]
+
+theorem iterate_derivative_eq_factorial_mul (p : R[X]) (k : ℕ) :
+    ∃ gp : R[X], gp.natDegree ≤ p.natDegree - k ∧ derivative^[k] p = k ! • gp := by
+  use ∑ x : ℕ in (derivative^[k] p).support, (x + k).choose k • C (p.coeff (x + k)) * X ^ x
```
Comment (eric-wieser) [inline Mathlib/Algebra/Polynomial/SumIteratedDerivative.lean:95]: Can you first write the theorem that includes this witness explicitly?

File: Mathlib/Algebra/Polynomial/SumIteratedDerivative.lean (hunk 2 above)
Comment (Ruben-VandeVelde) [reply Mathlib/Algebra/Polynomial/SumIteratedDerivative.lean:169]: @FR-vdash-bot do you recall?

File: Mathlib/Algebra/Polynomial/SumIteratedDerivative.lean (hunk 3 above)
Comment (Ruben-VandeVelde) [reply Mathlib/Algebra/Polynomial/SumIteratedDerivative.lean]: Only because it isn't needed so far; unless you have use cases to inform the design and what would be useful to prove about it, I think I'd prefer keeping it simple for now

File: Mathlib/Algebra/Polynomial/SumIteratedDerivative.lean [hunk 5]
```diff
@@ -0,0 +1,260 @@
...
+Sum of iterated derivatives of a polynomial, as a linear map
+
+This definition does not allow different weights for the derivatives. It is likely that it could be
+extended to allow them, but this was not needed for the initial use case (the integration by part
+of the integral $I_i$ in the
+[Lindemann-Weierstrass](https://en.wikipedia.org/wiki/Lindemann%E2%80%93Weierstrass_theorem)
+theorem).
+-/
+noncomputable def sumIderiv : R[X] →ₗ[R] R[X] where
+  toFun p := ∑ i ∈ range (p.natDegree + 1), derivative^[i] p
```
Comment (eric-wieser) [inline Mathlib/Algebra/Polynomial/SumIteratedDerivative.lean:51]: Thinking again;what do you think of first defining
```
def derivativeFinsupp : R[X] →ₗ[R] ℕ →₀ R[X]
```
with `derivFinsupp p i = derivative^[i] p`? this function then falls out by composing with `Finsupp.lsum`.

File: Mathlib/Algebra/Polynomial/SumIteratedDerivative.lean [hunk 6]
```diff
@@ -0,0 +1,233 @@
...
+    contrapose; simp_all [iterate_derivative_eq_zero, Nat.succ_le]
+  map_add' _ _ := by ext; simp
+  map_smul' _ _ := by ext; simp
+
+@[simp]
+theorem support_derivativeFinsupp_subset_range {p : R[X]} {n : ℕ} (h : p.natDegree < n) :
+    (derivativeFinsupp p).support ⊆ range n := by
+  dsimp [derivativeFinsupp]
+  exact Finsupp.support_onFinset_subset.trans (Finset.range_subset.mpr h)
+
```
Comment (eric-wieser) [inline Mathlib/Algebra/Polynomial/SumIteratedDerivative.lean:42]: Some lemmas about the above:
```suggestion


@[simp]
theorem derivativeFinsupp_C (r : R) : derivativeFinsupp (C r : R[X]) = .single 0 (C r)  := by
  ext i : 1
  match i with
  | 0 => simp
  | i + 1 => simp

@[simp]
theorem derivativeFinsupp_one : derivativeFinsupp (1 : R[X]) = .single 0 1 := by
  simpa using derivativeFinsupp_C (1 : R)

@[simp]
theorem derivativeFinsupp_X : derivativeFinsupp (X : R[X]) = .single 0 X + .single 1 1 := by
  ext i : 1
  match i with
  | 0 => simp
  | 1 => simp
  | (n + 2) => simp

theorem derivativeFinsupp_map (p : R[X]) (f : R →+* S) :
    derivativeFinsupp (p.map f) = (derivativeFinsupp p).mapRange (·.map f) (by simp) := by
  ext i : 1
  simp

theorem derivativeFinsupp_derivative (p : R[X]) :
    derivativeFinsupp (derivative p) =
      (derivativeFinsupp p).comapDomain Nat.succ Nat.succ_injective.injOn := by
  ext i : 1
  simp
```

File: Mathlib/Algebra/Polynomial/SumIteratedDerivative.lean [hunk 7]
```diff
@@ -0,0 +1,263 @@
...
+theorem sumIDeriv_apply_of_le {p : R[X]} {n : ℕ} (hn : p.natDegree ≤ n) :
+    sumIDeriv p = ∑ i ∈ range (n + 1), derivative^[i] p := by
+  dsimp [sumIDeriv]
+  exact Finsupp.sum_of_support_subset _ (by simp [Nat.lt_succ, hn]) _ (by simp)
+
+theorem sumIDeriv_C (a : R) : sumIDeriv (C a) = C a := by
+  rw [sumIDeriv_apply, natDegree_C, zero_add, sum_range_one, Function.iterate_zero_apply]
+
+@[simp]
+theorem sumIDeriv_map {S : Type*} [CommSemiring S] (p : R[X]) (f : R →+* S) :
```
Comment (eric-wieser) [inline Mathlib/Algebra/Polynomial/SumIteratedDerivative.lean:104]: Do you need commutativity here? If not, please reuse the ambient `S`

File: Mathlib/Algebra/Polynomial/SumIteratedDerivative.lean [hunk 8]
```diff
@@ -0,0 +1,263 @@
...
+
+section Semiring
+
+variable [Semiring R] [Semiring S]
+
+/--
+Iterated derivatives as a finite support function.
+-/
+@[simps! apply_toFun]
+noncomputable def derivativeFinsupp : R[X] →ₗ[R] ℕ →₀ R[X] where
```
Comment (eric-wieser) [inline Mathlib/Algebra/Polynomial/SumIteratedDerivative.lean:31]: I'm very curious if there's some way to make this morphism multiplicative by choosing the codomain as some variant of `AddMonoidAlgebra` instead of just a `Finsupp`; but that's definitely not in scope for this PR!

File: Mathlib/Algebra/Polynomial/SumIteratedDerivative.lean [hunk 9]
```diff
@@ -0,0 +1,263 @@
...
+Authors: Yuyang Zhao
+-/
+import Mathlib.Algebra.Polynomial.AlgebraMap
+import Mathlib.Algebra.Polynomial.BigOperators
+import Mathlib.Algebra.Polynomial.Degree.Lemmas
+import Mathlib.Algebra.Polynomial.Derivative
+import Mathlib.Algebra.Polynomial.RingDivision
+
+/-!
+# Sum of iterated derivatives
```
Comment (eric-wieser) [inline Mathlib/Algebra/Polynomial/SumIteratedDerivative.lean:13]: Could you add a short summary of the main definition(s) and theorem(s), and what these are useful for?

File: Mathlib/Algebra/Polynomial/SumIteratedDerivative.lean (hunk 8 above)
Comment (eric-wieser) [inline Mathlib/Algebra/Polynomial/SumIteratedDerivative.lean:31]: This might make sense closer to `derivative`, rather than in this file.

File: Mathlib/Algebra/Polynomial/SumIteratedDerivative.lean (hunk 9 above)
Comment (eric-wieser) [reply Mathlib/Algebra/Polynomial/SumIteratedDerivative.lean:13]: > and what these are useful for?

This would be good to have in the module doc, before the list of definitions.

**Comment by eric-wieser** [comment]
@jcommelin, can you take the final look?

File: Mathlib/Algebra/Polynomial/SumIteratedDerivative.lean [hunk 10]
```diff
@@ -58,6 +76,10 @@ theorem sumIDeriv_apply_of_le {p : R[X]} {n : ℕ} (hn : p.natDegree ≤ n) :
 theorem sumIDeriv_C (a : R) : sumIDeriv (C a) = C a := by
   rw [sumIDeriv_apply, natDegree_C, zero_add, sum_range_one, Function.iterate_zero_apply]
 
+theorem sumIDeriv_X : sumIDeriv X = X + C 1 := by
```
Comment (jcommelin) [inline Mathlib/Algebra/Polynomial/SumIteratedDerivative.lean:79]:
```suggestion
@[simp]
theorem sumIDeriv_X : sumIDeriv X = X + C 1 := by
```
If you want you can also add it to `sumIDeriv_C` above this one.

**Review by jcommelin — COMMENTED** [review]
bors d+
